data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(C)C1C.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(C)C1C.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(C)C1C", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(C)C2C.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(C)C2C", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(CC(C)C2C)C(=O)CC41c2ccccc2N(C)C31"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1ccc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c(Cl)c1.[H+]", "products": "COc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c(Cl)c1"}, {"reactants": "COc1ccc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c(Cl)c1", "products": "COc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c(Cl)c1.O"}, {"reactants": "COc1ccc([C+]2C(=O)CC3CCC2(C)C3(C)C)c(Cl)c1", "products": "COc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c(Cl)c1"}, {"reactants": "COc1ccc(C23CCC(CC2=O)C(C)(C)[C+]3C)c(Cl)c1", "products": "COc1ccc(C2=C(C)C(C)(C)C(C#[O+])CC2)c(Cl)c1"}, {"reactants": "COc1ccc(C2=C(C)C(C)(C)C(C#[O+])CC2)c(Cl)c1.O", "products": "COc1ccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c(Cl)c1"}, {"reactants": "COc1ccc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c(Cl)c1", "products": "COc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c(Cl)c1"}, {"reactants": "COc1ccc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c(Cl)c1", "products": "COc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c(Cl)c1"}, {"reactants": "COc1ccc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c(Cl)c1", "products": "COc1ccc(C2CCC3C(=O)OC2(C)C3(C)C)c(Cl)c1.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1ccc(F)cc1F)C1C2CCC1C2", "products": "[O][C](c1ccc(F)cc1F)C1C2CCC1C2"}, {"reactants": "[O][C](c1ccc(F)cc1F)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1ccc(F)cc1F"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1ccc(F)cc1F", "products": "OC(=CC1C=CCC1)c1ccc(F)cc1F"}, {"reactants": "OC(=CC1C=CCC1)c1ccc(F)cc1F", "products": "O=C(CC1C=CCC1)c1ccc(F)cc1F"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)c(F)c1F.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(F)c1F"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(F)c1F", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(F)c1F.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(F)c1F", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(F)c2F)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(F)c2F)C(=N)C=C1", "products": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(F)c1F"}, {"reactants": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(F)c1F", "products": "COc1cc2c(c(F)c1F)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(F)c1F)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1.[H+]", "products": "COc1cc2c(c(F)c1F)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(F)c1F)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1", "products": "COc1cc2c(c(F)c1F)[NH+]=CC2c1ccccc1.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc2c(c(F)c1F)[NH+]=CC2c1ccccc1", "products": "COc1cc2c(-c3ccccc3)c[nH]c2c(F)c1F.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(OC)CC1OC.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(OC)CC1OC.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(OC)CC1OC", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(OC)CC2OC.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(OC)CC2OC", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(C(=O)CC41c4ccccc4N(C)C31)C(OC)CC2OC"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)COC)c([Si](C)(C)CCl)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)COC)c([Si](C)(C)CCl)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)COC)c([Si](C)(C)CCl)cc1=C", "products": "COC[Si](C)(C)c1cc2c(cc1[Si](C)(C)CCl)CC[C@@H]1[C@@H]2CC[C@]2(C)C(=O)CC[C@@H]12"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1cc(C(=O)C2C3CCC2C3)ccc1Cl", "products": "COc1cc([C]([O])C2C3CCC2C3)ccc1Cl"}, {"reactants": "COc1cc([C]([O])C2C3CCC2C3)ccc1Cl", "products": "COc1cc(C([O])=CC2C[CH]CC2)ccc1Cl"}, {"reactants": "COc1cc(C([O])=CC2C[CH]CC2)ccc1Cl", "products": "COc1cc(C(O)=CC2C=CCC2)ccc1Cl"}, {"reactants": "COc1cc(C(O)=CC2C=CCC2)ccc1Cl", "products": "COc1cc(C(=O)CC2C=CCC2)ccc1Cl"}]}
